datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Nc1cccc2ccc[n+:21]([H:20])c12.c1ccc([C@@H]2C[N:10]3CCC[C@@H]3c3ccccc32)cc1>>Nc1cccc2ccc[n:21]c12.c1ccc([C@@H]2C[N+:10]3([H:20])CCC[C@@H]3c3ccccc32)cc1 10=20;20,21=21",
"Cn1cncc1CC(C(=O)[O-])[NH2+:21][H:20].O=C(/C=C\SC1CCCCC1)[O-:10]>>Cn1cncc1CC(C(=O)[O-])[NH2:21].O=C(/C=C\SC1CCCCC1)[O:10][H:20] 10=20;20,21=21",
"Cc1ccc(C[NH:10]C)cc1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>Cc1ccc(C[NH+:10](C)[H:20])cc1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"BrCC[NH2+:21][H:20].NC(=O)C(CCCCC(=O)[O-:10])c1ccccc1>>BrCC[NH2:21].NC(=O)C(CCCCC(=O)[O:10][H:20])c1ccccc1 10=20;20,21=21",
"CCC[NH2+]CC[NH2+:21][H:20].CCOC(=O)C[NH2:10]>>CCC[NH2+]CC[NH2:21].CCOC(=O)C[NH2+:10][H:20] 10=20;20,21=21",
"Cc1ccc(C(=S)[N-:10]c2ccc(F)cc2)cc1.Clc1cccc([O:21][H:20])c1>>Cc1ccc(C(=S)[N:10](c2ccc(F)cc2)[H:20])cc1.Clc1cccc([O-:21])c1 10=20;20,21=21",
"Fc1cccc([NH2+:21][H:20])c1.c1nc2cc([O-:10])ccc2[nH]1>>Fc1cccc([NH2:21])c1.c1nc2cc([O:10][H:20])ccc2[nH]1 10=20;20,21=21",
"O=C(c1ccncc1)[N-:10]O.[NH3+]c1ccccc1-c1sc2ccccc2[n+:21]1[H:20]>>O=C(c1ccncc1)[N:10](O)[H:20].[NH3+]c1ccccc1-c1sc2ccccc2[n:21]1 10=20;20,21=21",
"Cc1cccc(C=O)[n:10]1.O/[Se](c1ccccc1)=[O+:21]/[H:20]>>Cc1cccc(C=O)[n+:10]1[H:20].O[Se](c1ccccc1)=[O:21] 10=20;20,21=21",
"O=C(c1ccccc1/N=C/C=C/c1ccccc1)[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C(c1ccccc1/N=C/C=C/c1ccccc1)[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"NS(=O)(=O)c1cccc(C(=O)[O:21][H:20])c1.[F-:10]>>NS(=O)(=O)c1cccc(C(=O)[O-:21])c1.[F:10][H:20] 10=20;20,21=21",
"CC(O)[O-:10].COC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1>>CC(O)[O:10][H:20].COC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1 10=20;20,21=21",
"N[C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>N[C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[Si](C)(C)C[NH:10]C1CCCCC1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C[Si](C)(C)C[NH+:10](C1CCCCC1)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"O=[N+]([O-])c1ccccc1C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1ccccc1C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ccc([N+](=O)[O-])cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:10]2Cc1ccccc1.C[C@H]1CC[C@@H]2CCC[N+:21]21[H:20]>>COc1ccc([N+](=O)[O-])cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:10]2(Cc1ccccc1)[H:20].C[C@H]1CC[C@@H]2CCC[N:21]21 10=20;20,21=21",
"Clc1ccc2nnn([O-:10])c2c1.[NH3+]CCCCCCCCC(=O)[O:21][H:20]>>Clc1ccc2nnn([O:10][H:20])c2c1.[NH3+]CCCCCCCCC(=O)[O-:21] 10=20;20,21=21",
"O=S(=O)([O-])c1cc([O-:10])c2cn[nH]c2c1.O=[N+]([O-])c1cccc2c[n+](CCC[O:21][H:20])ccc12>>O=S(=O)([O-])c1cc([O:10][H:20])c2cn[nH]c2c1.O=[N+]([O-])c1cccc2c[n+](CCC[O-:21])ccc12 10=20;20,21=21",
"CN1C(=O)C(=Cc2ccccc2)[N-:10]C1=O.Cc1cc(/N=N/c2nc3ccccc3s2)c2cccnc2c1[O:21][H:20]>>CN1C(=O)C(=Cc2ccccc2)[N:10]([H:20])C1=O.Cc1cc(/N=N/c2nc3ccccc3s2)c2cccnc2c1[O-:21] 10=20;20,21=21",
"COc1cc(N)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:10]3Cc2ccccc2)c1OC.Cc1[nH]c2ccc(C(=O)[O-])cc2[n+:21]1[H:20]>>COc1cc(N)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:10]3(Cc2ccccc2)[H:20])c1OC.Cc1[nH]c2ccc(C(=O)[O-])cc2[n:21]1 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCCCCCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CCCCCCCCCCCCCCCCCCCCCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(=O)c1ccc([O-:10])c(O)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(=O)c1ccc([O:10][H:20])c(O)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCNCC[NH:10]CCCC.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCCNCC[NH+:10](CCCC)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[Si](C)(C)OC1C[N+:21](C)([H:20])C1.O=C(NCC[N:10]1CCOCC1)c1ccc(Cl)cc1>>C[Si](C)(C)OC1C[N:21](C)C1.O=C(NCC[N+:10]1([H:20])CCOCC1)c1ccc(Cl)cc1 10=20;20,21=21",
"Cc1ncc(CO)c(C[NH2:10])c1[O-].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>Cc1ncc(CO)c(C[NH2+:10][H:20])c1[O-].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCC(C)[NH:10]C(C)CC.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCC(C)[NH+:10](C(C)CC)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C[C@H](CCC[NH:10]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3[C@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C[C@H](CCC[NH+:10](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3[C@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC[C@@H]1C(=O)OC[C@@H]1Cc1c[n:10]cn1C.CN1C(=S)[N:21]([H:20])C(=O)C12CCCCC2>>CC[C@@H]1C(=O)OC[C@@H]1Cc1c[n+:10]([H:20])cn1C.CN1C(=S)[N-:21]C(=O)C12CCCCC2 10=20;20,21=21",
"CC(=O)NS(=O)(=O)c1ccsc1C(=O)[O:21][H:20].Clc1ccnc2c1ccc1c(Cl)cc[n:10]c12>>CC(=O)NS(=O)(=O)c1ccsc1C(=O)[O-:21].Clc1ccnc2c1ccc1c(Cl)cc[n+:10]([H:20])c12 10=20;20,21=21",
"C[NH:10]CC(O)c1ccccc1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[NH+:10](CC(O)c1ccccc1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
